US06908914B1
1-Prop-2-ynylazepane, compound 4.1
18.8 ml of a 3-bromopropyne solution at 80% in toluene are added dropwise to 20.8 ml of hexamethyleneamine and 27.9 g of potassium carbonate in 300 ml of acetonitrile. The reaction mixture is heated at 50° C. for 12 hours and 6 hours at 80° C. The reaction mixture is filtered, and the solvents are evaporated off under reduced pressure. Compound 4.1 is purified by distillation; b.p.=61° C. under a pressure of 26.7 Pa.

reactant | 3-bromopropyne | 18.8 ml | BrCC#C | C3H3Br
reactant | hexamethyleneamine | 20.8 ml | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | potassium carbonate | 27.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 1-Prop-2-ynylazepane | C(C#C)N1CCCCCC1 | C9H15N
